US04269837
To 3.48 g (0.02 mol) of phenylisocyanide dichloride in 25 ml of anhydrous ether at 0° C. under a nitrogen atmosphere was added 4.0 g (0.04 mol) of 1-methylpiperazine in 20 ml of anhydrous ether dropwise. The mixture was stirred for one hour at ambient temperature and filtered to remove the precipitated 1-methylpiperazine hydrochloride. The filtrate was added dropwise to a solution of 4.8 g (0.04 mol) of benzamidine in 15 ml of tetrahydrofuran. The mixture was stirred for 20 hours at ambient temperature. The precipitated product was collected and reprecipitated twice by pouring a methanolic solution of the product into a large excess of anhydrous ether. The product was subsequently recrystallized from methanol-ether to afford 2.30 g (32%) of N-(1-amino-1-phenylmethylene)-N'-(phenyl)-1-methyl-4-piperazinecarboximidamide hydrochloride, mp 247°-248° C.

reactant | phenylisocyanide dichloride | 0.02 mol, 3.48 g | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
reactant | 1-methylpiperazine | 0.04 mol, 4.0 g | CN1CCNCC1 | C5H12N2
reactant | benzamidine | 0.04 mol, 4.8 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(1-amino-1-phenylmethylene)-N'-(phenyl)-1-methyl-4-piperazinecarboximidamide hydrochloride | 2.30 g, 32% | Cl.NC(C1=CC=CC=C1)=NC(=NC1=CC=CC=C1)N1CCN(CC1)C | InChI=1S/C19H23N5.ClH/c1-23-12-14-24(15-13-23)19(21-17-10-6-3-7-11-17)22-18(20)16-8-4-2-5-9-16;/h2-11H,12-15H2,1H3,(H2,20,21,22);1H
